US07176224B2
A mixture of 2-(3-tert-butyl-phenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester (0.030 mmol) (see Ex. 23, Part B), toluenesulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 3, Part B) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-(3-tert-butyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy)-phenyl)-propionic acid. 1H NMR (400 MHz, CDCl3) δ 7.97 (d, 2H, J=8.60 Hz), 7.67 (d, 2H, J=8.60 Hz), 7.36 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.33 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.20–7.16 (m, 3H), 7.12–7.07 (m, 2H), 6.89 (t, 1H, J=1.96 Hz), 6.84 (d, 2H, J=8.60 Hz), 6.72 (dd, 1H, J=8.60 Hz, 2.74 Hz), 4.22 (t, 2H, J=6.65 Hz), 3.25 (d, 1H, J=14.08 Hz), 3.15 (d, 1H, J=14.08 Hz), 3.01 (t, 2H, J=6.65 Hz), 2.40 (s, 3H), 1.43 (s, 3H), 1.26 (s, 9H). HRMS (ES+) m/z exact mass calcd for C36H38NO5S 596.2471, found 596.2454.

reactant | 2-(3-tert-butyl-phenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)C(C)(C)C)=O | C22H28O4
reactant | toluenesulfonic acid 2-(5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl)ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1SC=CC1)CCOS(=O)(=O)C=1C(=CC=CC1)C | C23H21NO4S2
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-(3-tert-butyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(4-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy)-phenyl)-propionic acid | C(C)(C)(C)C=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC=C(C=C2)C=2SC=CC2)C)C=CC1 | C36H37NO5S
